US06066641
a) 4-Chlorobenzylurea
100 ml of 95% 4-chlorobenzylamine and 51.53 g of sodium cyanate in 1 liter of water were treated below 25° C. with 194 ml of 4N HCl. Further sodium cyanate (5.15 g) was added and the pH adjusted to 7.3. After 3 days the solid was collected, washed with water and dried to give the title compound (131.1 g) as a white solid mp 186-9° C.

reactant | 4-chlorobenzylamine | 100 ml | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium cyanate | 51.53 g | [O-]C#N.[Na+]
reactant | HCl | 4N, 194 ml | Cl | ClH
reactant | sodium cyanate | 5.15 g | [O-]C#N.[Na+]
solvent | water | 1 liter | O | H2O
product | 4-Chlorobenzylurea | 131.1 g | ClC1=CC=C(CNC(=O)N)C=C1 | C8H9ClN2O
